US06897208B2
A stirred suspension of 3-(5,6-dimethyl-1H-benzoimidazol-2-yl)-1H-indazole-5-carbonitrile dihydrochloride [200 mg, Reference Example 6(aq)] in acetic acid/concentrated hydrochloric acid (4 ml, 1:1 v/v) was heated at 100° C. for 16 hours. The reaction mixture was cooled to ambient temperature and filtered. The precipitate was washed with water and dried in vacuo to give 3-(5,6-dimethyl-1H-benzoimidazol-2-yl)-1H-indazole-5-carboxylic acid (195 mg) as a white solid. LC-MS (METHOD B): RT=2.52 minutes, 307 (M+H)+.

reactant | 3-(5,6-dimethyl-1H-benzoimidazol-2-yl)-1H-indazole-5-carbonitrile dihydrochloride | 200 mg | Cl.Cl.CC1=CC2=C(NC(=N2)C2=NNC3=CC=C(C=C23)C#N)C=C1C
reactant | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 3-(5,6-dimethyl-1H-benzoimidazol-2-yl)-1H-indazole-5-carboxylic acid | 195 mg | CC1=CC2=C(NC(=N2)C2=NNC3=CC=C(C=C23)C(=O)O)C=C1C | C17H14N4O2
